Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
trazodone / Bactrim / Ritalin
 
Attending: ___.
 
Chief Complaint:
BPH
 
Major Surgical or Invasive Procedure:
Cystoscopy, Bipolar TUR Prostate 

 
History of Present Illness:
___ w/ LUTS
 
Past Medical History:
BPH/LUTS
AFIB

SEE OMR/ATRIUS
 
Social History:
___
Family History:
SEE OMR/ATRIUS
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 06:40AM BLOOD WBC-10.4* RBC-4.13* Hgb-12.7* Hct-38.4* 
MCV-93 MCH-30.8 MCHC-33.1 RDW-13.0 RDWSD-44.3 Plt ___
___ 06:40AM BLOOD Glucose-97 UreaN-19 Creat-1.1 Na-141 
K-4.1 Cl-105 HCO3-25 AnGap-11
 
Brief Hospital Course:
Mr. ___ was admitted to ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
vodiding trial.  Post void residuals were checked. His urine was 
clear and and without clots. He remained a-febrile throughout 
his hospital stay.  At discharge, the patient had pain well 
controlled with oral pain medications, was tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  He was given pyridium and oral pain medications on 
discharge and a course of antibiotics along with explicit 
instructions to follow up in clinic.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propafenone HCl 150 mg PO TID 
2. Aspirin 325 mg PO DAILY 
3. ALPRAZolam 0.5 mg PO TID:PRN Anxiety/Insomnia 
4. Verapamil SR 180 mg PO Q24H 
5. Omeprazole 20 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Psyllium Powder 1 PKT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Phenazopyridine 200 mg PO TID catheter discomfort Duration: 
3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*9 Tablet Refills:*0 
4.  Senna 17.2 mg PO HS  
5.  ALPRAZolam 0.5 mg PO TID:PRN Anxiety/Insomnia  
6.  Aspirin 325 mg PO DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Propafenone HCl 150 mg PO TID  
11.  Psyllium Powder 1 PKT PO DAILY  
12.  Verapamil SR 180 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bladder outlet obstruction
prostatic hyperplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  
 
Followup Instructions:
___